US08754107B2
A mixture of (S)-2-amino-2-phenylethanol (2.28 g, 16.6 mmol) and 4-cyclopropyl-4-oxobutanoic acid (1.97 g, 13.8 mmol) in toluene (35 mL) was heated at reflux for about 6 h. The reaction mixture was cooled to room temperature and diluted with EtOAc, washed with aqueous HCl (1.0 N), saturated NaHCO3, brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified on a Biotage silica gel column eluting with heptane/EtOAc (3:2) to afford (3S,7aS)-7a-cyclopropyl-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one (2.54 g, 10.4 mmol) as a bright yellow needle-like solid. RP-HPLC (Table 1, Method a) Rt 1.77 min; m/z: (M+H)+ 244.

reactant | (S)-2-amino-2-phenylethanol | 16.6 mmol, 2.28 g | N[C@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | 4-cyclopropyl-4-oxobutanoic acid | 13.8 mmol, 1.97 g | C1(CC1)C(CCC(=O)O)=O | C7H10O3
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3S,7aS)-7a-cyclopropyl-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one | 10.4 mmol, 2.54 g | C1(CC1)[C@]12OC[C@@H](N1C(CC2)=O)C2=CC=CC=C2 | C15H17NO2
